US07846950B2
[2-Fluoro-4-(thiophen-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedures D and E using 2-fluoro-4-hydroxy-benzoic acid methyl ester [CAS 197507-22-5], 2-chloromethyl-thiophene [CAS 765-50-4], and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine. MS (ES+) m/e 389.2

reactant | 2-fluoro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)O)F)=O | C8H7FO3
reactant | 2-chloromethyl-thiophene | ClCC=1SC=CC1 | C5H5ClS
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
product | [2-Fluoro-4-(thiophen-2-ylmethoxy)-phenyl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)OCC=1SC=CC1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C21H25FN2O2S
